US05254723
A 100-mL flask is charged with 1000 mol. wt. PTMEG (5.0 g), acetic anhydride (32 g), and zinc chloride (1.0 g). The mixture is refluxed for 4 h at 140° C. Tetramethylene glycol diacetate is obtained in 31% yield.

reactant | acetic anhydride | 32 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | zinc chloride | 1.0 g | [Cl-].[Zn+2].[Cl-]
product | Tetramethylene glycol diacetate | 31% yield | C(C)(=O)OCCCCOC(C)=O | C8H14O4
